US05441955
To a solution of 5-azaisatoic anhydride (1 mmol, Coppola, G. M. Synthesis 1980, 505) and allyl bromide (1.1 mmol) in DMF is added triethylamine (1.2 mmol) dropwise. The reaction mixture is allowed to stir at room temperature for 12 h after which time CHCl3 is added and the organic layer is washed with water, dried (MgSO4) and the solvent is evaporated to give N-allyl-5-azaisatoic anhydride.

reactant | 5-azaisatoic anhydride | 1 mmol | C1=2C(=O)OC(NC1=CC=NC2)=O | C7H4N2O3
reactant | allyl bromide | 1.1 mmol | C(C=C)Br | C3H5Br
reactant | triethylamine | 1.2 mmol | C(C)N(CC)CC | C6H15N
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | CN(C)C=O | C3H7NO
product | N-allyl-5-azaisatoic anhydride | C(C=C)N1C=2C(C(=O)OC1=O)=CN=CC2 | C10H8N2O3
